US04424359
(a) Preparation of 4-[2-(benzyloxy)-ethyl]-6-methyl-2,2'-bipyridine
36.4 g (0.2 mol) of a mixture of isomers, consisting of 4,6-dimethyl-2,2'-bipyridine (45% by weight), 3,6-dimethyl-2,2'-bipyridine (45% by weight) and 3,5-dimethyl-2,2'-bipyridine (10% by weight) are dissolved in 150 ml of anhydrous tetrahydrofuran (THF). At 0° C., a solution of lithium diisopropylamide and hexamethylphosphoric acid triamide in THF/n-hexane [ratio about 1:1 by volume; prepared from 12.2 g (0.12 mol) of diisopropylamine in 50 ml of anhydrous THF, 60 ml of 2-molar n-butyllithium solution in n-hexane and 25.9 g (0.12 mol) of anhydrous hexamethylphosphoric acid triamide] is added dropwise in the course of 2 hours. Subsequently, the mixture is stirred for 30 minutes at 0° C. and for 15 minutes at 23° C. At -75° C., 20.3 g (0.13 mol) of benzyl chloromethyl ether are added dropwise in the course of 30 minutes. The reaction mixture is warmed slowly to 23° C., stirred for 1 hour at this temperature and then added to 200 ml of 10% hydrochloric acid. The solution is washed with three times 250 ml of ethyl acetate. The aqueous phase is rendered alkaline with potassium carbonate and the product obtained is extracted with four times 250 ml of ethyl acetate. The combined ethyl acetate phases are dried over sodium sulfate and the solvent is removed in vacuo. The residue is distilled in a high vacuum. The initial fraction (16.8 g; boiling point 75°-83° C./0.27 Pa) contains 78% by weight of 3,6-dimethyl-2,2'-bipyridine, 14% by weight of 3,5-dimethyl-2,2'-bipyridine and 3% by weight of unconverted 4,6-dimethyl-2,2'-bipyridine. At 174°-176° C./0.09 Pa, 20.3 g of 4-[2-(benzyloxy)-ethyl]-6-methyl-2,2'-bipyridine distil over; yield 78% of theory, calculated on the 4,6-dimethyl-2,2'-bipyridine present in the mixture of isomers employed. nD20 =1.6007.

reactant | 4,6-dimethyl-2,2'-bipyridine | CC1=CC(=NC(=C1)C)C1=NC=CC=C1 | C12H12N2
reactant | 3,6-dimethyl-2,2'-bipyridine | CC=1C(=NC(=CC1)C)C1=NC=CC=C1 | C12H12N2
reactant | 3,5-dimethyl-2,2'-bipyridine | CC=1C(=NC=C(C1)C)C1=NC=CC=C1 | C12H12N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | THF n-hexane | 0.12 mol, 2-molar, 50 ml, 12.2 g | O1CCCC1.CCCCCC
reactant | diisopropylamine | 0.12 mol | C(C)(C)NC(C)C | C6H15N
reactant | benzyl chloromethyl ether | 0.13 mol, 20.3 g | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric acid triamide | 0.12 mol | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-[2-(benzyloxy)-ethyl]-6-methyl-2,2'-bipyridine | yield 78% | C(C1=CC=CC=C1)OCCC1=CC(=NC(=C1)C)C1=NC=CC=C1 | C20H20N2O
